US08058447B2
2,2,2-Trifluoroethyl 5-cyano-2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylate
60 mg (0.32 mmol) of 2-methyl-4-oxo-4H-chromene-8-carbaldehyde are dissolved with 60.1 mg (0.32 mmol) of 2,2,2-trifluoroethyl 3-oxobutanoate, 26.2 mg (0.32 mmol) of 3-aminocrotononitrile and 19.1 mg (0.32 mmol) of acetic acid in 5 ml of 2-propanol and heated under reflux under argon for 4 h. The solvent is removed in vacuo, and the residue is purified by preparative HPLC. 103 mg (77% of theory) of the title compound are obtained as a yellow solid.

reactant | 2-methyl-4-oxo-4H-chromene-8-carbaldehyde | 0.32 mmol, 60 mg | CC=1OC2=C(C=CC=C2C(C1)=O)C=O | C11H8O3
reactant | 2,2,2-trifluoroethyl 3-oxobutanoate | 0.32 mmol, 60.1 mg | O=C(CC(=O)OCC(F)(F)F)C | C6H7F3O3
reactant | 3-aminocrotononitrile | 0.32 mmol, 26.2 mg | N\C(=C/C#N)\C | C4H6N2
reactant | acetic acid | 0.32 mmol, 19.1 mg | C(C)(=O)O | C2H4O2
solvent | 2-propanol | 5 ml | CC(C)O | C3H8O
product | 2,2,2-Trifluoroethyl 5-cyano-2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylate | C(#N)C=1C(C(=C(NC1C)C)C(=O)OCC(F)(F)F)C=1C=CC=C2C(C=C(OC12)C)=O | C21H17F3N2O4
